US09416101B2
4-(chlorosulfonyl)benzoic acid (0.5 g, 2.27 mmol) was treated with 4-fluoro-N-methylaniline (851 mg, 6.80 mmol) using method A to give 4-(N-(4-fluorophenyl)-N-methylsulfamoyl)benzoic acid as a white solid. Yield: 534 mg (76%). 1H-NMR: 8.10 (d, J=8.5 Hz, 2H), 7.62 (d, J=8.5 Hz, 2H), 7.23-7.11 (m, 4H), 3.15 (s, 3H).

reactant | 4-(chlorosulfonyl)benzoic acid | 2.27 mmol, 0.5 g | ClS(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C7H5ClO4S
reactant | 4-fluoro-N-methylaniline | 6.80 mmol, 851 mg | FC1=CC=C(NC)C=C1 | C7H8FN
product | 4-(N-(4-fluorophenyl)-N-methylsulfamoyl)benzoic acid | FC1=CC=C(C=C1)N(S(=O)(=O)C1=CC=C(C(=O)O)C=C1)C | C14H12FNO4S
